US05252581
3-(Methyl-4-pyridinylamino)thieno[2,3-b]pyridine
A solution of 3-(4-pyridinylamino)thieno[2,3-b]pyridine (4 g) in 25 mL of dimethylformamide was added to an ice-cooled suspension of sodium hydride (60% oil dispersion, 0.85 g, washed with heptane) in 5 mL of dimethylformamide. After anion formation was completed a solution of dimethyl sulfate (2.4 g) in 5 mL of dimethylformamide was added. After one hour the reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride, and then was dried (anhydrous magnesium sulfate), filtered and evaporated to 4 g of a solid. Elution through silica with 10% methanol in ethyl acetate via flash column chromatography afforded 3 g of a solid, m.p. 143°-145° C. Recrystallization from acetonitrile afforded 2.1 g of crystals, m.p. 150°-152° C.

reactant | 3-(4-pyridinylamino)thieno[2,3-b]pyridine | 4 g | N1=CC=C(C=C1)NC1=CSC2=NC=CC=C21 | C12H9N3S
reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | dimethyl sulfate | 2.4 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(Methyl-4-pyridinylamino)thieno[2,3-b]pyridine | 3 g | CN(C1=CSC2=NC=CC=C21)C2=CC=NC=C2 | C13H11N3S
